Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right-sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ LHD man with a past medical history of
hypertension, hyperlipidemia, diabetes

He was in his normal state of health when he went to bed last
night.  He says he was walking up by call around 6:30 AM today 
at
which point he felt normal he went back to sleep.  He woke up
again at 7 AM he states that he noted upon awakening that he had
numbness along his left face arm and leg.  This continued
throughout the day.  When he began to eat breakfast he noted 
that
he was unable to feel the orange juice and sandwich on the left
side of his cheek.  He denies any motor symptoms.  There is no
clumsiness or problems with coordination.  He states the 
symptoms
continued and because they were not improving he presented to 
the
emergency department for evaluation he states he is otherwise
been in his usual state of health recently.. He denies any
similar previous symptoms.  He shows me his blood pressures over
the past few weeks.  Which have been high.  Ranging from
systolics in the 160s to 180s.  Upon presentation to the
emergency room his systolic was in the 170s.  His A1c was 11% ___
years ago but he states that recently he thinks that his been
better.  In the chart it states he had a previous history of GI
bleed.  He states that he does not recall the exact details of
the of this GI bleed but states that it was not serious.  There
is some tingling as well in the same distribution.
 
Past Medical History:
HTN
HLD
DM                                                  

 
Social History:
___
Family History:
DM and CAD multiple family members
 
Physical ___:
On admission:
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: decreased to 50% of normal over V1-v3 to pin. also decreased
to temp
VII: No facial droop, facial musculature symmetric. no NLFF
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout. R hand pronation on PD
testing.

 No adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     4+*  4*  5    5 

some pain limitation in hamstring testing

-Sensory: Decreased to all modalities over L hemibody, roughly
50% of normal.

-Reflexes:

 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 

Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. Able to walk in tandem without difficulty.

At discharge:

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Able to name both high and low frequency objects. Able to read
without difficulty. No dysarthria. Able to follow both midline
and appendicular commands. There was no evidence of apraxia or
neglect. 

-Cranial Nerves:
II, III, IV, VI: PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. 
V: Symmetric sensation bilaterally 
VII: No facial droop, facial musculature symmetric. no NLFF
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing. 

-Motor: Normal bulk and tone throughout.  No pronator drift
 No adventitious movements, such as tremor or asterixis noted.
 [___]
L 5      5     5   5    5    ___     5    5   5    5
R 5      5     5   5    5    ___     5    5   5    5 

-Sensory: Symmetric sensation to light touch bilaterally
-Reflexes:
 [Bic] [Tri] [___] [Pat] [Ach]
L 2      2      2     2      1
R 2      2      2     2      1 
Plantar response was flexor bilaterally. 

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF or HKS bilaterally. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing. 
 
Pertinent Results:
___ 06:15AM BLOOD WBC-6.4 RBC-5.27 Hgb-15.3 Hct-44.6 MCV-85 
MCH-29.0 MCHC-34.3 RDW-12.5 RDWSD-38.2 Plt ___
___ 06:15AM BLOOD ___ PTT-29.2 ___
___ 06:15AM BLOOD Glucose-233* UreaN-19 Creat-0.8 Na-140 
K-3.4* Cl-98 HCO3-28 AnGap-14
___ 06:15AM BLOOD ALT-27 AST-18 CK(CPK)-144 AlkPhos-59 
TotBili-0.4
___ 02:20PM BLOOD cTropnT-<0.01
___ 06:15AM BLOOD %HbA1c-8.8* eAG-206*
___ 06:15AM BLOOD Triglyc-299* HDL-30* CHOL/HD-5.3 
LDLcalc-69
___ 06:15AM BLOOD Calcium-9.4 Phos-3.7 Mg-1.7 Cholest-159
___ 06:15AM BLOOD TSH-2.6

Echocardiogram showed
Normal left ventricular wall thickness and biventricular cavity 
sizes and regional/
global biventricular systolic function. No structural cardiac 
source of embolism (e.g.patent
foramen ovale/atrial septal defect, intracardiac thrombus, or 
vegetation) seen.

MRI of the brain showed
Unremarkable noncontrast MRI head.  Specifically no acute 
infarct
 
Brief Hospital Course:
___ M w/ PMH HTN, DM presents with left hemibody numbness that 
started last ___ (4 days ago), noticed left facial numbness 
since 7am on the day of presentation. He notes of having similar 
left sided numbness last ___ which only lasted an hour. He 
started taking an aspirin a day last ___ in addition to 
continuing his home medications. Given persistent symptoms 
presented to the ED for further evaluation. 

Imaging studies in the ER showed - CT head with no acute 
abnormalities, CTA with no large vessel occlusion. Exam with L 
hemibody decreased sensation, L hand pronator drift, slight 
weakness in UMN pattern on L (4+ hamstring, TA). He was admitted 
for further work-up of possible stroke.

He was started on aspirin, Plavix and an MRI of the brain was 
obtained which did not show any evidence of acute stroke. Based 
on his symptoms and clinical presentation, suspect a small R 
thalamocapsular stroke even with a negative MRI. Etiology of the 
stroke is likely to be small vessel in the setting of vascular 
risk factors (hypertension, diabetes mellitus, hyperlipidemia). 
A1c of 8.8, LDL 69. TTE showed No structural cardiac source of 
embolism. Upon reevaluation patient symptoms completely resolved 
with no motor or sensory deficits.
We will continue aspirin and Plavix for 21 days followed by 
aspirin monotherapy. Atorvastatin 40 mg daily has been added as 
well.

Hypertension-his home blood pressure readings were noted to be 
consistently elevated-systolic blood pressure ranging 160s-170s. 
Recommended continuing hydrochlorothiazide and lisinopril at the 
same dose and increasing amlodipine to 10 mg daily. For diabetes 
mellitus-A1c is elevated at 8.8. He was taking metformin 500 mg 
oral twice daily, dose increased to 1000 mg BID. Patient is to 
follow-up with his PCP ___ 1 week to make further adjustments as 
appropriate.

Follow-up with neurology in 2 to 3 months.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN (Glucophage) 500 mg PO BID 
2. amLODIPine 5 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Lisinopril 20 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*4 
2.  Clopidogrel 75 mg PO DAILY Duration: 21 Days 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*21 
Tablet Refills:*0 
3.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  MetFORMIN (Glucophage) 1000 mg PO BID 
RX *metformin [Glucophage] 1,000 mg 1 tablet(s) by mouth twice a 
day Disp #*30 Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Hydrochlorothiazide 25 mg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute Ischemic Stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were hospitalized due to symptoms of left sided numbness 
resulting from an ACUTE ISCHEMIC STROKE, a condition where a 
blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms. 

Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
Hypertension
Diabetes mellitus
High Cholesterol

We are changing your medications as follows:
- adding clopidogrel 75 mg oral daily for 21 days 
- Added atorvastatin 40 mg daily
- increasing dose of amlodipine to 10 mg oral daily
- Increasing metformin dose to 1000mg oral twice daily

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___